US09034900B2
Step 3: N-[3-(2,6-dimethyl-1-oxoisoquinolin-4-yl)phenyl]ethanesulfonamide
4-Bromo-2,6-dimethylisoquinolin-1-one (75.0 mg, 0.30 mmol), [3-(ethylsulfonylamino)phenyl]boronic acid (82.0 mg, 0.36 mmol), Pd(dppf)Cl2 (22 mg, 0.03 mmol) and aqueous 1M K3PO4 (0.75 mL) in dioxane (4 mL) were reacted in a manner similar to Example 72, step 3. Isolation, also in a similar manner, gave the title compound (60.0 mg, 48.1%) as a white solid. 1H NMR (CDCl3, 400 MHz) δ 8.42 (d, J=8.4 Hz, 1H), 7.46 (t, J=8.0 Hz, 1H), 7.34 (d, J=8.0 Hz, 1H), 7.29-7.27 (m, 2H), 7.24 (d, J=8.0 Hz, 1H), 7.03 (s, 1H), 6.68 (s, 1H), 3.65 (s, 3H), 3.21 (q, J=7.2 Hz, 2H), 2.42 (s, 3H), 1.43 (t, J=7.2 Hz, 3H). LCMS: 357.0 (M+H)+

reactant | 4-Bromo-2,6-dimethylisoquinolin-1-one | 0.30 mmol, 75.0 mg | BrC1=CN(C(C2=CC=C(C=C12)C)=O)C | C11H10BrNO
reactant | [3-(ethylsulfonylamino)phenyl]boronic acid | 0.36 mmol, 82.0 mg | C(C)S(=O)(=O)NC=1C=C(C=CC1)B(O)O | C8H12BNO4S
reactant | K3PO4 | 1M, 0.75 mL | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.03 mmol, 22 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-[3-(2,6-dimethyl-1-oxoisoquinolin-4-yl)phenyl]ethanesulfonamide | 60.0 mg, 48.1% | CN1C(C2=CC=C(C=C2C(=C1)C=1C=C(C=CC1)NS(=O)(=O)CC)C)=O | C19H20N2O3S
